US06265575B1
Part B. 6-Benzyloxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-(4-aminophenyl)benzo[b]thiophene
6-Benzyloxy-2-[4-[bis(trimethylsilyl)amino]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-[(1-pyrrolidinyl)methyl]phenyl ketone (0.73 g) was dissolved in THF (10 mL), cooled to 0° C. in an ice bath before treated with lithium aluminum hydride (110 mg) at 0° C. for 1 h, then quenched with water(1 mL) and sodium hydroxide (1.0 M, 1 mL). Stirring continued for 30 min. The reaction mixture was diluted with brine(30 mL) and extracted with dichloromethane (20 mL×3). The combined organic layers were dried with sodium sulfate and concentrated in vacuo to give the crude alcohol. This material was dissolved in dichloromethane (15 mL), treated with triethylsilane (1.5 mL) and trifluroacetic acid (1.5 mL) sequentially, allowed to stir at ambient temperature for 1.5 h, and concentrated under reduced pressure. The residue was extracted with dichloromethane (20 mL×3) from saturated aqueous sodium bicarbonate (30 mL). The combined organic layers were dried with sodium sulfate and concentrated. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the title compound as a yellow foam (0.53 g).

reactant | 6-Benzyloxy-2-[4-[bis(trimethylsilyl)amino]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-[(1-pyrrolidinyl)methyl]phenyl ketone | 0.73 g | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C40H48N2O3SSi2
reactant | lithium aluminum hydride | 110 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethylsilane | 1.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-Benzyloxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-(4-aminophenyl)benzo[b]thiophene | 0.53 g | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)N)C1 | C34H34N2O2S
